US08202873B2
1-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-pyrrolidine-2,5-dione hydrochloride
Dissolve succinimide (99 mg, 1.0 mmol) in dry DCM (5 mL) under nitrogen. Add triphenylphosphine (408 mg, 1.5 mmol) and stir for 20 min. at room temperature. Add {4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol (378 mg, 1.0 mmol) and diethyl azodicarboxylate (0.19 mL, 1.1 mmol) and stir for 20 hr. Add water (10 mL), extract with DCM (2×5 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®, concentrate and purify by SCX-2® chromatography washing with methanol then eluting with 2 M ammonia in methanol. Further purify (silica gel chromatography, eluting with 0:100 to 5:95 methanol:DCM), to give the free base as a light yellow oil. Purify again by low pH reverse phase HPLC, and form the free base by passing through an SCX-2® ion exchange cartridge washing with methanol then eluting with 3.5 M ammonia in methanol. Dissolve the oil in acetonitrile and convert to the hydrochloride salt by adding 2 M aq HCl solution. Add water and lyophilize to give the title compound as a yellow powder (127 mg, 26%). MS (ES): m/z=460 [M+H]+.

reactant | succinimide | 1.0 mmol, 99 mg | C1(CCC(N1)=O)=O | C4H5NO2
reactant | triphenylphosphine | 1.5 mmol, 408 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | {4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol | 1.0 mmol, 378 mg | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CO | C21H26N6O
reactant | diethyl azodicarboxylate | 1.1 mmol, 0.19 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-pyrrolidine-2,5-dione hydrochloride | Cl.CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CN2C(CCC2=O)=O)C=C1 | InChI=1S/C25H29N7O2.ClH/c1-18-21(15-28-29(18)2)17-30-11-13-31(14-12-30)25-24(26-9-10-27-25)20-5-3-19(4-6-20)16-32-22(33)7-8-23(32)34;/h3-6,9-10,15H,7-8,11-14,16-17H2,1-2H3;1H
